US04075001
A mixture of 72.6 g of 3-amino-2-cyano-3-(diethylamino)propenenitrile, 44.7 g of triethylamine, 200 ml of pyridine, and 50 ml of dimethylformamide was saturated at 60° with hydrogen sulfide. The temperature was increased to 75° while hydrogen sulfide was passed through the solution. After heating at 75° for 2 hours, thin-layer chromatographic analysis indicated the reaction was incomplete. After about 60 hours at room temperature the mixture was heated at 75° for an additional 4 hours. The mixture was allowed to cool to ambient temperature, then was poured into 1750 ml of ice-water mixture. The cold slurry was stirred for 1 hour and the solid was isolated by filtration. The solid was washed with ice-water and recrystallized from 250 ml of ethanol to give 56 g of 3-amino-2-cyano-3-(diethylamino)propenethioamide, m.p. 151°-152°. The nmr spectrum was consistent with the assigned structure.

reactant | 3-amino-2-cyano-3-(diethylamino)propenenitrile | 72.6 g | NC(=C(C#N)C#N)N(CC)CC | C8H12N4
reactant | triethylamine | 44.7 g | C(C)N(CC)CC | C6H15N
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrogen sulfide | S | H2S
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-amino-2-cyano-3-(diethylamino)propenethioamide | 56 g | NC(=C(C(N)=S)C#N)N(CC)CC | C8H14N4S
